US04622407
To a solution of (-)-α-methylbenzyl 5-(1-methyl-5-methylthiopyrrol-2-oyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate (3.0 g, 7.1 mmol) in CH2Cl2 (80 ml) at -78° C. under N2 atmosphere was slowly added a 1.0M solution of boron tribromide in CH2Cl2 (15.6 ml, 15.6 mmol). The solution was stirred at -78° C. for 5 minutes and absolute ethanol (30 ml) was added slowly and warmed to room temperature then stirred at room temperature for 2 hours. The solution was washed with water (3×25 ml.) and brine (1×25 ml.), dried over anhydrous sodium sulfate, filtered and rotovapped at 20° C. to an orange solid and chromatographed on a flash silica gel column (5×15 cm) eluted with 50% ether/hexane. The resulting crude product was crystallized from hot EtOH to afford 2.12 g (86% yield) of (-)-ethyl 5-(1-methyl- 5-methylthiopyrrol-2-oyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate. [α]D25 =-127.4 (CHCl3, C=1.06); m.p. 113°-115° C.

reactant | (-)-α-methylbenzyl 5-(1-methyl-5-methylthiopyrrol-2-oyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | 7.1 mmol, 3.0 g | CN1C(=CC=C1SC)C(=O)C1=C(C=C2N1CCC2C(=O)OC(C2=CC=CC=C2)C)C | C24H26N2O3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15.6 mmol, 15.6 ml | C(Cl)Cl | CH2Cl2
product | (-)-ethyl 5-(1-methyl- 5-methylthiopyrrol-2-oyl)-1,2-dihydro-6-methyl-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | 2.12 g, 86% yield | CN1C(=CC=C1SC)C(=O)C1=C(C=C2N1CCC2C(=O)OCC)C | C18H22N2O3S
